US08283353B2
ethyl 1-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]cyclopropanecarboxylate
A mixture of ethyl 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-4-{[(4-methylphenyl)sulfonyl]oxy}butanoate (0.45 g), potassium tert-butoxide (0.26 g) and tetrahydrofuran (20 mL) was stirred at −10° C. for 10 min. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.19 g, 55%).

reactant | ethyl 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-4-{[(4-methylphenyl)sulfonyl]oxy}butanoate | 0.45 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OCC)CCOS(=O)(=O)C2=CC=C(C=C2)C)=O | C41H45N5O7S
reactant | potassium tert-butoxide | 0.26 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 1-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]cyclopropanecarboxylate | 0.19 g, 55% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC2(CC2)C(=O)OCC)=O | C34H37N5O4
